US07375134B2
A stream of nitrogen was passed through a suspension of (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]amino}-5,5,5-trifluoropentan-1-ol (0.55 g), 2-(4-methanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.59 g) 2.5 M K2CO3 (2.75 mL) and DMF (0.91 mL) for 20 minutes. [1,1′-Bis(diphenyl-phosphino)ferrocene]-palladium (II) chloride (1:1 complex with dichloromethane, 34 mg) was then added, the vessel sealed, and the reaction was warmed to 85° C. and stirred under nitrogen for 5 hours. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (50 mL) and water (50 mL) and shaken vigorously. The ethyl acetate layer was separated and washed 3 times with water, dried with magnesium sulfate, and filtered. Removal of the solvent left a residue that was purified by chromatography on SiO2 using a gradient of 10-30% ethyl acetate in hexanes. Rotary evaporation of appropriate fractions yielded (2S)-5,5,5-trifluoro-2-({(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}amino)pentan-1-ol.

reactant | (2S)-2-{[(1S)-1-(4-bromophenyl)-2,2,2-trifluoroethyl]amino}-5,5,5-trifluoropentan-1-ol | 0.55 g | BrC1=CC=C(C=C1)[C@@H](C(F)(F)F)N[C@H](CO)CCC(F)(F)F | C13H14BrF6NO
reactant | 2-(4-methanesulfonyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 2.5 M, 2.75 mL, 0.59 g | CS(=O)(=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C13H19BO4S
reactant | DMF | 0.91 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | [1,1′-Bis(diphenyl-phosphino)ferrocene]-palladium (II) chloride | 34 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2S)-5,5,5-trifluoro-2-({(1S)-2,2,2-trifluoro-1-[4′-(methylsulfonyl)-1,1′-biphenyl-4-yl]ethyl}amino)pentan-1-ol | FC(CC[C@@H](CO)N[C@H](C(F)(F)F)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C20H21F6NO3S
